US07632846B2
Process for the Preparation of methyl 4-cyclohex-1-en-1-yl-2-[(4′-methoxy-1,1′-biphenyl-4-yl)oxy]butanoate
1.9 g (0.0138 mol) of potassium carbonate are added to a solution of 1.4 g (0.0069 mol) of 4′-methoxy-1,1′-biphenyl-4-ol in 30 ml of 3-methyl-2-pentanone (MIBK). The mixture is refluxed for 30 minutes and a solution of 1.5 g (0.0069 mol) of methyl 2-chloro-4-cyclohex-1-en-1-ylbutanoate in 10 ml of 3-methyl-2-pentanone is then added. Refluxing is continued for a further 6 hours. After cooling to room temperature, the reaction medium is concentrated, taken up in water and extracted with ethyl acetate. The extracts are washed with 1N sodium hydroxide and then with saturated aqueous NaCl solution, and dried over Na2SO4. After concentrating, a thick oil is obtained, which is purified by flash chromatography (95/5 heptane/ethyl acetate). 1.1 g of an oily product are thus obtained.

reactant | potassium carbonate | 0.0138 mol, 1.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4′-methoxy-1,1′-biphenyl-4-ol | 0.0069 mol, 1.4 g | COC1=CC=C(C=C1)C1=CC=C(C=C1)O | C13H12O2
reactant | methyl 2-chloro-4-cyclohex-1-en-1-ylbutanoate | 0.0069 mol, 1.5 g | ClC(C(=O)OC)CCC1=CCCCC1 | C11H17ClO2
solvent | 3-methyl-2-pentanone | 30 ml | CC(C(C)=O)CC | C6H12O
solvent | 3-methyl-2-pentanone | 10 ml | CC(C(C)=O)CC | C6H12O
product | methyl 4-cyclohex-1-en-1-yl-2-[(4′-methoxy-1,1′-biphenyl-4-yl)oxy]butanoate | 1.1 g, Yield=42% | C1(=CCCCC1)CCC(C(=O)OC)OC1=CC=C(C=C1)C1=CC=C(C=C1)OC | C24H28O4
